US09359350B2
(1) Synthesis of methyl(E)-3-(3-methyl-1H-indazole-6-yl)acrylate [122-1] (hereinafter referred to as a compound [122-1])
To a solution of 6-Bromo-3-methyl-1H-indazole (2.1 g) obtained with the method described in the document (JP 2009-528363 W) in N,N-dimethylformamide (10 mL) were added methyl acrylate (1.8 mL), palladium acetate (II) (225 mg), tris(2-methylphenyl)phosphine (609 mg) and triethylamine (2.8 mL) at room temperature, and then the reaction mixture was subjected to microwave irradiation at 150° C. for 10 minutes. After cooling to room temperature, the reaction mixture was quenched with water, and extracted with chloroform. The obtained organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the titled compound (1.8 g) as a yellowish white solid.

reactant | methyl acrylate | 1.8 mL | C(C=C)(=O)OC | C4H6O2
reactant | tris(2-methylphenyl)phosphine | 609 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | triethylamine | 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 225 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl(E)-3-(3-methyl-1H-indazole-6-yl)acrylate | 1.8 g | CC1=NNC2=CC(=CC=C12)/C=C/C(=O)OC | C12H12N2O2
